US07220862B2
4-Amino-3-[(1-benzyl-piperidin-4-yl-amino)-methyl]-phenol
(1-Benzyl-piperidin-4-yl)-(2-nitro-benzyl)-amine (0.25 g, 0.7 mmol) and zinc dust (0.2 g, excess) were combined in 75% aqueous acetic acid (8 mL) and stirred at 60° C. for 2 h. After cooling to room temperature, the solvents were removed in vacuo and the resultant crude mixture dissolved in water (10 mL), followed by addition of ammonium hydroxide until pH 3 was attained. The solution was extracted with methylene chloride (3×). The organic layers were pooled together, washed with water (2×), brine (2×), dried over sodium sulfate, filtered, and concentrated to afford 0.18 g (79%) of the desired product.

reactant | (1-Benzyl-piperidin-4-yl)-(2-nitro-benzyl)-amine | 0.7 mmol, 0.25 g | C(C1=CC=CC=C1)N1CCC(CC1)NCC1=C(C=CC=C1)[N+](=O)[O-] | C19H23N3O2
reactant | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 0.2 g | [Zn] | Zn
product | 4-Amino-3-[(1-benzyl-piperidin-4-yl-amino)-methyl]-phenol | 0.18 g, 79% | NC1=C(C=C(C=C1)O)CNC1CCN(CC1)CC1=CC=CC=C1 | C19H25N3O
